US06949542B2
4-[2,4′]Bipyridinyl-4-yl-7-methyl-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J20) (116 mg, 0.4 mmol) and 3-[2,4′]bipyridinyl-4-yl-3-oxo-propionic acid tert-butyl ester (Example K58) (119 mg, 0.4 mmol) according to the general procedure M and subsequent treatment of the crude product according to the general procedure N. Obtained as a light yellow solid (86 mg).

reactant | (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.4 mmol, 116 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)N)=O | C13H17F3N2O2
reactant | 3-[2,4′]bipyridinyl-4-yl-3-oxo-propionic acid tert-butyl ester | 0.4 mmol, 119 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=NC=C1)C1=CC=NC=C1)=O | C17H18N2O3
product | 4-[2,4′]Bipyridinyl-4-yl-7-methyl-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | N1=C(C=C(C=C1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)C)C(F)(F)F)C2=CC=NC=C2 | C21H15F3N4O
